US04730003
2-Propyl-7-ethoxycarbonyl-7-methyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
Analogously to Example 5, 1.40 g. (4.0 mmole) 6-propylcarbonylamino-5-nitro-3-ethoxycarbonyl-3-methylindolin-2-one is suspended in 140 ml. ethanol and hydrogenated in the presence of 0.1 g. 10% palladium on charcoal at normal pressure and ambient temperature. After 270 ml. of hydrogen have been taken up, the catalyst is filtered off with suction and the filtrate is evaporated to dryness. The residue is stirred for 1 hour at 60° C. in 10 ml. glacial acetic acid, the glacial acetic acid is distilled off and the residue is taken up in water and neutralised with 2N aqueous sodium hydroxide solution. The mixture is shaken out three times with dichloromethane and the combined dichloromethane phases are dried over anhydrous sodium sulphate, filtered and the filtrate evaporated to dryness. After crystallisation of the residue from isopropanol, there is obtained 0.4 g. (33% of theory) of the title compound; m.p. 258°-261° C.

reactant | 6-propylcarbonylamino-5-nitro-3-ethoxycarbonyl-3-methylindolin-2-one | 4.0 mmole | C(CC)C(=O)NC1=C(C=C2C(C(NC2=C1)=O)(C)C(=O)OCC)[N+](=O)[O-] | C16H19N3O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 2-Propyl-7-ethoxycarbonyl-7-methyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | C(CC)C=1NC2=C(N1)C=C1C(=C2)NC(C1(C)C(=O)OCC)=O | C16H19N3O3
